US06821988B2
N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,4-bis(dimethylamino)butanamide
A solution of (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-(dimethylamino)-2-butenamide (400 mg, 0.719 mmol) and 1.5 mL of 2N dimethylamine in THF was heated at 36° C. in a sealed tube for 20 hours. After the volatile solvents were stripped off, the residue was treated with 1.5 mL of 2N dimethylamine in THF, and heated again at 36° C. in a sealed tube for 20 hours. After the solvent was removed, the residue was purified by preparatory TLC (developed in ethyl acetate:methanol:triethylamine=10:1:1) to yield 260 mg of the title compound as a yellow solid (yield: 60%), mp 102-104° C.; MS (ES) 601.3 (M+1).

reactant | (E)-N-{4-[4-(benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-4-(dimethylamino)-2-butenamide | 0.719 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(\C=C\CN(C)C)=O)OCC)C#N)C=C1)Cl | C31H30ClN5O3
reactant | dimethylamine | 2N, 1.5 mL | CNC | C2H7N
reactant | dimethylamine | 2N, 1.5 mL | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}-3,4-bis(dimethylamino)butanamide | 260 mg, yield: 60% | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(CC(CN(C)C)N(C)C)=O)OCC)C#N)C=C1)Cl | C33H37ClN6O3
